US09353107B2
Step-ii: 3-(1-phenethyl-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(5-(3-(1-phenethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazine-1-carboxylate (140 mg, 0.199 mmol) was deprotected with TFA/DCM (2/1 ml). This afforded 110 mg (91.6% yield) of the titled compound. MS: m/z=604.1 (M+1).

reactant | tert-butyl 4-(5-(3-(1-phenethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazine-1-carboxylate | 0.199 mmol, 140 mg | C(CC1=CC=CC=C1)N1N=CC(=C1)C1=CN(C2=NC=C(C=C21)C=2C=CC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=C(C)C=C2 | C39H41N7O4S
reactant | TFA DCM | 1 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-(1-phenethyl-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 110 mg, 91.6% yield | C(CC1=CC=CC=C1)N1N=CC(=C1)C1=CN(C2=NC=C(C=C21)C=2C=NC(=CC2)N2CCNCC2)S(=O)(=O)C2=CC=C(C)C=C2 | C34H33N7O2S
